US07371767B2
A solution of 2-(1H-pyrrol-3-yl)pyridine (0.072 g, 0.5 mmol), 1,3-dichloro-5-iodobenzene (0.163 g, 0.6 mmol), 1,10-phenanthroline (0.360 g, 2 mmol) and potassium phosphate (0.223 g, 1.05 mmol) in dioxane were degassed for 10 min, then copper (I) iodide (0.038 g, 0.2 mmol) was added and the mixture degassed a further 10 min. The mixture was heated to 110° C. for 4 h. The reaction mixture was quenched with brine, extracted with EtOAc (3×25 mL) and the combined organic extracts washed with brine. The organic phase was dried over Na2SO4, concentrated in vacuo and the residue was chromatographed on silica gel eluting with EtOAc:hexane (1:4) to afford a white solid. The crude material was dissolved in THF (5 mL), 1.2 eq. of 1M HCl in diethyl ether was added and the resulting precipitate was filtered to obtain 2-[1-(3,5-dichlorophenyl)-1H-pyrrol-3-yl]pyridine hydrochloride as a white solid. 1H-NMR (CD3OD, 300 MHz) δ 8.60 (d, 1H), 8.50 (dd, 1H), 8.41 (dd, 1H), 8.34 (d, 1H), 7.80-7.69 (m, 3H), 7.59 (dd, 1H), 7.50-7.49 (m, 1H), 7.11-7.09 (dd, 1H). MS (ESI) 289.0 (M++H).

reactant | 2-(1H-pyrrol-3-yl)pyridine | 0.5 mmol, 0.072 g | N1C=C(C=C1)C1=NC=CC=C1 | C9H8N2
reactant | 1,3-dichloro-5-iodobenzene | 0.6 mmol, 0.163 g | ClC1=CC(=CC(=C1)I)Cl | C6H3Cl2I
reactant | 1,10-phenanthroline | 2 mmol, 0.360 g | N1=CC=CC2=CC=C3C=CC=NC3=C12 | C12H8N2
reactant | potassium phosphate | 1.05 mmol, 0.223 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | HCl | 1M, 1.2 eq. | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
catalyst | copper (I) iodide | 0.2 mmol, 0.038 g | [Cu]I
product | 2-[1-(3,5-dichlorophenyl)-1H-pyrrol-3-yl]pyridine hydrochloride | Cl.ClC=1C=C(C=C(C1)Cl)N1C=C(C=C1)C1=NC=CC=C1 | InChI=1S/C15H10Cl2N2.ClH/c16-12-7-13(17)9-14(8-12)19-6-4-11(10-19)15-3-1-2-5-18-15;/h1-10H;1H
